US07368472B2
N-(4-Amino-2-nitrophenyl)-2-(4-fluorophenyl)acetamide
To a stirred suspension of {4-[2-(4-fluorophenyl)-acetylamino]-3-nitro-phenyl}-carbamic acid tert-butyl ester (2.40 g, 6.16 mmol) in methylene chloride (5 mL) trifluoroacetic acid (5 mL) was added. After 15 minutes methylene chloride was distilled off and the residual solution was transferred into saturated aqueous NaHCO3 solution (200 mL) with sonication. The precipitate was filtered, washed with water and dried in vacuo to furnish 1.70 g of the title compound as a red-brown solid. Yield 96.3%. LC/MS; tR=2.25 (UV, ELSD) 89%, 100%. 1H NMR (DMSO-d6): 3.59 (s, 2H); 5.65 (b, 2H, NH2); 6.83 (dd, 1H); 7.08 (d, 1H); 7.15 (t, 2H), 7.21 (d, 1H); 7.32 (dd, 2H); 9.91 (s, 1H, NH).

reactant | {4-[2-(4-fluorophenyl)-acetylamino]-3-nitro-phenyl}-carbamic acid tert-butyl ester | 6.16 mmol, 2.40 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)NC(CC1=CC=C(C=C1)F)=O)[N+](=O)[O-])=O | C19H20FN3O5
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Amino-2-nitrophenyl)-2-(4-fluorophenyl)acetamide | 1.70 g, Yield 96.3% | NC1=CC(=C(C=C1)NC(CC1=CC=C(C=C1)F)=O)[N+](=O)[O-] | C14H12FN3O3
